US05030724
[(1,1-Dimethylethoxy)carbonyl]aminooxyacetic acid, methyl ester
A solution of aminooxyacetic acid, methyl ester (79.3 g, 0.75 mole) and BOC anhydride (197 g, 0.9 mole) in 320 ml of acetonitrile was heated at 80° C. for 24 hours. The solvent was evaporated in vacuo and the oily residue was partitioned between ethyl acetate and water. Drying of the organic phase over sodium sulfate and evaporation gave 137 g of the title compound as a colorless oil.

reactant | aminooxyacetic acid, methyl ester | 0.75 mole, 79.3 g | NOCC(=O)OC | C3H7NO3
reactant | BOC anhydride | 0.9 mole, 197 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 320 ml | C(C)#N | C2H3N
product | [(1,1-Dimethylethoxy)carbonyl]aminooxyacetic acid, methyl ester | 137 g | CC(C)(OC(=O)NOCC(=O)OC)C | C8H15NO5
